US08304557B2
3-(1-cyano-1-methylethyl)-N-{3-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}benzamide
To a solution of N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide (200 mg, 0.485 mmol) in N,N-dimethylformamide (5 mL) was added chloroacetyl chloride (116 μL, 1.46 mmol), and the mixture was stirred at room temperature for 21 hr. 1N Hydrochloric acid (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (30 mL, 2×10 mL). The combined organic layer was washed with saturated aqueous sodium hydrogen carbonate solution (5 mL) and saturated brine (5 mL) and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (5 mL). Triethylamine (202 μL, 1.46 mmol) and 1-methylpiperazine (162 μL, 1.46 mmol) were added thereto, and the mixture was stirred at 60° C. for 19 hr. A saturated aqueous sodium hydrogen carbonate solution (20 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (30 mL, 2×10 mL). The combined organic layer was washed with saturated brine (10 mL), and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→94/6), and fractions containing the desired product were concentrated under reduced pressure. Diisopropyl ether was added to the obtained residue. The obtained precipitate was collected by filtration and dried to give the title compound (147 mg, 55%) as a pale-yellow powder.

reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.485 mmol, 200 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C23H20N6O2
reactant | chloroacetyl chloride | 1.46 mmol, 116 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | Hydrochloric acid | 1N, 20 mL | Cl | ClH
reactant | Triethylamine | 1.46 mmol, 202 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 1.46 mmol, 162 μL | CN1CCNCC1 | C5H12N2
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(1-cyano-1-methylethyl)-N-{3-[(2-{[(4-methylpiperazin-1-yl)acetyl]amino}[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]phenyl}benzamide | 147 mg, 55% | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)N=C(N3)NC(CN3CCN(CC3)C)=O)C=CC1 | C30H32N8O3
